US07981886B2
(3R,6S)-6-{[6-(4-methoxy-benzothiazole-2-carbonyl)-tetrahydro-pyran-3-ylamino]-methyl}-4H-benzo[1,4]thiazin-3-one
Using the same protocol as for example 23, steps 23.a) to 23.f, the title compound was synthesised using 4-methoxybenzothiazole (8.7 mmol), (3R,6S)-(6-formyl-tetrahydro-pyran-3-yl)-carbamic acid tert-butyl ester (4.6 mmol) and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde (0.7 mmol) and obtained after chromatography on SiO2 (EtOAc/MeOH 9:1 +1% NH4OH) and crystallisation from ether/MeOH as a yellowish solid (35 mg).

reactant | 4-methoxybenzothiazole | 8.7 mmol | COC1=CC=CC2=C1N=CS2 | C8H7NOS
reactant | (3R,6S)-(6-formyl-tetrahydro-pyran-3-yl)-carbamic acid tert-butyl ester | 4.6 mmol | C(C)(C)(C)OC(N[C@H]1CO[C@@H](CC1)C=O)=O | C11H19NO4
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 0.7 mmol | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
product | (3R,6S)-6-{[6-(4-methoxy-benzothiazole-2-carbonyl)-tetrahydro-pyran-3-ylamino]-methyl}-4H-benzo[1,4]thiazin-3-one | COC1=CC=CC2=C1N=C(S2)C(=O)[C@@H]2CC[C@H](CO2)NCC=2C=CC1=C(NC(CS1)=O)C2 | C23H23N3O4S2
